US07671048B2
e) 2-Chloro-N-[2-(2H-[1,2,4]triazol-3-yl)-4-trifluoromethoxy-phenyl]-acetamide
To a cooled solution of 4-trifluoromethoxy-2-(2H-[1,2,4]triazol-3-yl)-phenylamine (3.00 g, 12.3 mmol) in acetic acid (62 mL) was added dropwise chloroacetyl chloride (1.96 mL, 24.6 mmol). The resulting light brown suspension was stirred for 20 h at ambient temperature and was then poured into water (246 mL) and stirred for another 3 h. The precipitate was filtered off and washed with water. Drying in vacuo afforded the title compound (3.22 g, 82%) as an off-white solid. MS: m/e=323.1 [M+H]+.

reactant | 4-trifluoromethoxy-2-(2H-[1,2,4]triazol-3-yl)-phenylamine | 12.3 mmol, 3.00 g | FC(OC1=CC(=C(C=C1)N)C=1NN=CN1)(F)F | C9H7F3N4O
reactant | chloroacetyl chloride | 24.6 mmol, 1.96 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | water | 246 mL | O | H2O
solvent | acetic acid | 62 mL | C(C)(=O)O | C2H4O2
product | 2-Chloro-N-[2-(2H-[1,2,4]triazol-3-yl)-4-trifluoromethoxy-phenyl]-acetamide | 3.22 g, 82% | ClCC(=O)NC1=C(C=C(C=C1)OC(F)(F)F)C=1NN=CN1 | C11H8ClF3N4O2
